US05972972
C. 3-(2,6-dichlorophenylsulfonylamino)-4-(2-pyridyl)-5-(3-(4-fluorophenoxy)benzylthio)-(1H)-pyrazole
3-Amino-4-(2-pyridyl)-5-(3-(4-fluorophenoxy)benzylthio)-(1H)-pyrazole (0.39 g, 0.99 mmol) was dissolved in 5 ml of pyridine. Commercial 2,6-dichlorobenzenesulfonyl chloride (0.26 g, 1.04 mmol) was added and the red solution was stirred overnight at room temperature. The reaction mixture was poured into 50 ml of water and was extracted twice with 100 ml portions of ethyl acetate. The organic layers were washed with water and brine, combined, dried over MgSO4 and concentrated. The crude product was slurried in cold ethyl acetate and the solid was filtered off and washed with small portions of cold ethyl acetate and cold diethyl ether and dried under vacuum to afford 0.32 g (53% yield) of the final compound.

reactant | 3-Amino-4-(2-pyridyl)-5-(3-(4-fluorophenoxy)benzylthio)-(1H)-pyrazole | 0.99 mmol, 0.39 g | NC1=NNC(=C1C1=NC=CC=C1)SCC1=CC(=CC=C1)OC1=CC=C(C=C1)F | C21H17FN4OS
reactant | 2,6-dichlorobenzenesulfonyl chloride | 1.04 mmol, 0.26 g | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | water | 50 ml | O | H2O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2,6-dichlorophenylsulfonylamino)-4-(2-pyridyl)-5-(3-(4-fluorophenoxy)benzylthio)-(1H)-pyrazole | 0.32 g, 53% yield | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)NC1=NNC(=C1C1=NC=CC=C1)SCC1=CC(=CC=C1)OC1=CC=C(C=C1)F | C27H19Cl2FN4O3S2
